US08314091B2
A: 4-Amino-2,5-difluorobenzoic Acid
2,5-Difluoro-4-nitrobenzoic acid (1 g, 4.9 mmol) was dissolved in ethanol. 10% Palladium on carbon (500 mg) was added and reaction stirred under a hydrogen balloon overnight. The catalyst was filtered off and the filtrate was concentrated under reduced pressure to afford the title compound (0.79 g).

reactant | 2,5-Difluoro-4-nitrobenzoic acid | 4.9 mmol, 1 g | FC1=C(C(=O)O)C=C(C(=C1)[N+](=O)[O-])F | C7H3F2NO4
solvent | ethanol | C(C)O | C2H6O
catalyst | Palladium on carbon | 500 mg | [Pd] | Pd
product | 4-Amino-2,5-difluorobenzoic Acid | 0.79 g | NC1=CC(=C(C(=O)O)C=C1F)F | C7H5F2NO2
